US04939130
10 ml of 2N aqueous sodium hydroxide solution are added, with stirring, to a suspension of 3,36 g of 2-(2-phenylimidazol-4-yl)-1-hydroxy-ethane-1,1-diphosphonic acid in 10 ml of water. The resulting solution is evaporated to dryness. The residue is triturated with 40 ml of methanol. The crystalline precipitate formed is filtered off and dried yielding disodium 2-(2-phenylimidazol-4-yl)-1-hydroxyethane-1,1-diphosphonate-dihydrate m.p. 281°-283° C. (dec.).

reactant | sodium hydroxide | 2N, 10 ml | [OH-].[Na+]
reactant | 2-(2-phenylimidazol-4-yl)-1-hydroxy-ethane-1,1-diphosphonic acid | 3,36 g | C1(=CC=CC=C1)C=1NC=C(N1)CC(P(O)(=O)O)(P(O)(=O)O)O | C11H14N2O7P2
solvent | water | 10 ml | O | H2O
product | disodium 2-(2-phenylimidazol-4-yl)-1-hydroxyethane-1,1-diphosphonate-dihydrate | O.O.C1(=CC=CC=C1)C=1NC=C(N1)CC(P([O-])(=O)[O-])(P(O)(=O)O)O.[Na+].[Na+] | InChI=1S/C11H14N2O7P2.2Na.2H2O/c14-11(21(15,16)17,22(18,19)20)6-9-7-12-10(13-9)8-4-2-1-3-5-8;;;;/h1-5,7,14H,6H2,(H,12,13)(H2,15,16,17)(H2,18,19,20);;;2*1H2/q;2*+1;;/p-2
